US03966966
Potassium tert-butoxide (5.06 g., 0.045 mole) dissolved in tert-butanol (100 ml.) is added to a refluxing solution of 2-methyl-4,5-dichloro-6-methoxyindan-1,3-dione (7.8 g., 0.03 mole), prepared by the method described in Example 10, Step A, in tert-butanol (150 ml.)-benzene (150 ml.). The mixture is cooled slightly and solid 2,2'-dithienyliodonium chloride (16.5 g., 0.05 mole) is added in one portion. Heating at reflux is continued for 2 hrs. The reaction mixture is cooled to 25°C., 100 ml. of water is added, and the mixture concentrated to dryness in vacuo to give 2-methyl-2-(2-thienyl(-4,5-dichloro-6-methoxyindan-1,3-dione.

reactant | Potassium tert-butoxide | 0.045 mole, 5.06 g | CC(C)([O-])C.[K+]
reactant | 2-methyl-4,5-dichloro-6-methoxyindan-1,3-dione | 0.03 mole, 7.8 g | CC1C(C2=CC(=C(C(=C2C1=O)Cl)Cl)OC)=O | C11H8Cl2O3
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
solvent | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 150 ml | C(C)(C)(C)O | C4H10O
product | 4,5-dichloro-6-methoxyindan-1,3-dione | ClC1=C2C(CC(C2=CC(=C1Cl)OC)=O)=O | C10H6Cl2O3
